US08202885B2
To a solution of 159 mg of BOC-beta-alanine in 4 mL DCM were added 0.36 mL DIPEA and 113 mg of HOBt. After stirring for 15 min, 300 mg of rac-(1R*,2R*,4R*)-2-(2-methylamino-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol in 4 mL DCM were added followed by 161 mg of EDCI. The resulting suspension was stirred for 2 h at rt, then quenched with water. The water phase was reextracted with DCM, the combined organic phases were washed with sat. aq. NaHCO3, dried and concentrated in vacuo. The residue was purified by preparative TLC with EtOAc to give 168 mg of rac-(2-{[2-((1R*,2R*,4R*)-2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl]-methyl-carbamoyl}-ethyl)-carbamic acid tert.-butyl ester as white foam.

reactant | BOC-beta-alanine | 159 mg | C(=O)(OC(C)(C)C)NCCC(=O)O | C8H15NO4
reactant | DIPEA | 0.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 113 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | rac-(1R*,2R*,4R*)-2-(2-methylamino-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol | 300 mg | CNCCC1(C2C=C(C(C1)CC2)C2=CC=CC=C2)O | C17H23NO
reactant | EDCI | 161 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | rac-(2-{[2-((1R*,2R*,4R*)-2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl]-methyl-carbamoyl}-ethyl)-carbamic acid tert.-butyl ester | 168 mg | C(C)(C)(C)OC(NCCC(N(C)CC[C@]1([C@H]2C=C([C@@H](C1)CC2)C2=CC=CC=C2)O)=O)=O | C25H36N2O4
